US04636516
In 10 ml of acetic acid was dissolved 1.35 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole and after adding thereto 0.64 g of sodium thiocyanate, 0.7 g of bromine was added dropwise to the solution under ice-cooling. After performing the reaction for one hour at room temperature, 30 ml of water was added to the reaction mixture to precipitate crystals, which were recovered by filtration. The crystals were added to a mixture of 20 ml of chloroform and 10 ml of an aqueous 10% potassium carbonate solution followed by stirring. The chloroform layer thus formed was dried and concentrated, and the residue thus formed was purified by silica gel column chromatography using chloroform as the eluent and further recrystallized from ethanol to provide 0.6 g 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-thiocyanato-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 1.35 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1 | C19H26N2OS
reactant | sodium thiocyanate | 0.64 g | [S-]C#N.[Na+]
reactant | bromine | 0.7 g | BrBr | Br2
reactant | water | 30 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-thiocyanato-2,3-dihydroimidazo[2,1-b]thiazole | 0.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1SC#N | C20H25N3OS2
